US07732461B2
4-[(4-{[(3-Oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]thiazin-6-yl)methyl]amino}-1-piperidinyl)methyl]-4,5-dihydro-7H-pyrrolo[3,2,1-de]-1,5-naphthyridin-7-one Dihydrochloride
To a solution of the dihydrochloride salt of 4-[(4-amino-1-piperidinyl)methyl]-4,5-dihydro-7H-pyrrolo[3,2,1-de]-1,5-naphthyridin-7-one (56 mg, 0.158 mmol) in methanol (0.4 ml), dichloromethane (1.6 ml) was added triethylamine (110 μl, 0.79 mmol) and 3-oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]thiazine-6-carboxaldehyde (for a synthesis see WO2003087098, Example 301(d)) (31 mg, 0.158 mmol). This mixture was stirred for 18 h at 25° C. before NaBH4 (6 mg, 0.158 mmol) was added and the reaction stirred for a further 0.5 h after which time the solvent was evaporated and the residue was subjected to column chromatography on silica gel using a 0-30% methanol in dichloromethane gradient. This provided the free base of the title compound as a yellow solid (30 mg, 41%).

reactant | dihydrochloride | C1(=C(C(=C(C(=C1F)F)F)N)F)N.Cl.Cl
reactant | 4-[(4-amino-1-piperidinyl)methyl]-4,5-dihydro-7H-pyrrolo[3,2,1-de]-1,5-naphthyridin-7-one | 0.158 mmol, 56 mg | NC1CCN(CC1)CC1CN2C=3C1=CC=NC3C=CC2=O | C16H20N4O
reactant | triethylamine | 0.79 mmol, 110 μl | C(C)N(CC)CC | C6H15N
reactant | 3-oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]thiazine-6-carboxaldehyde | O=C1NC2=C(SC1)C=CC(=N2)C=O | C8H6N2O2S
reactant | NaBH4 | 0.158 mmol, 6 mg | [BH4-].[Na+]
solvent | methanol | 0.4 ml | CO | CH4O
solvent | dichloromethane | 1.6 ml | ClCCl | CH2Cl2
product | 4-[(4-{[(3-Oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]thiazin-6-yl)methyl]amino}-1-piperidinyl)methyl]-4,5-dihydro-7H-pyrrolo[3,2,1-de]-1,5-naphthyridin-7-one Dihydrochloride | 30 mg, 41% | Cl.Cl.O=C1NC2=C(SC1)C=CC(=N2)CNC2CCN(CC2)CC2CN1C=3C2=CC=NC3C=CC1=O | InChI=1S/C24H26N6O2S.2ClH/c31-21-14-33-20-3-1-17(27-24(20)28-21)11-26-16-6-9-29(10-7-16)12-15-13-30-22(32)4-2-19-23(30)18(15)5-8-25-19;;/h1-5,8,15-16,26H,6-7,9-14H2,(H,27,28,31);2*1H
